US08980888B2
<Step 3> Synthesis of 4-(2,5-dimethylpyrimidin-4-yl)-N-(6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxamide
An N-methylpyrrolidone (7.7 ml) solution of the 4-(2,5-dimethylpyrimidin-4-yl)-1-methyl-1H-pyrazole-5-carboxylic acid (715 mg) obtained in (Example 3.22) <Step 2>, 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine hydrochloride (obtained according to the method described in International Publication No. WO2012/076430, p. 80, Example 30-h) (815 mg), 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluroniumhexafluorophosphate methanaminium (2.34 g), and diisopropylethylamine (2.69 ml) was stirred at 80° C. for 3 hours. Thereafter, water was added to the reaction solution, and the mixed solution was then extracted with ethyl acetate. Organic layers were combined, and the combined organic layer was then dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, and the obtained residue was then purified by silica gel column chromatography (NH silica gel:eluent; heptane:ethyl acetate=3:1-1:1). The obtained fraction was concentrated under reduced pressure. The obtained residue (solid) was triturated with methanol to obtain the title compound (377 mg) in the form of a colorless solid.

reactant | N-methylpyrrolidone | 7.7 ml | CN1C(CCC1)=O | C5H9NO
reactant | 4-(2,5-dimethylpyrimidin-4-yl)-1-methyl-1H-pyrazole-5-carboxylic acid | 715 mg | CC1=NC=C(C(=N1)C=1C=NN(C1C(=O)O)C)C | C11H12N4O2
reactant | 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine hydrochloride | Cl.FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)N
reactant | diisopropylethylamine | 2.69 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | O | H2O
product | 4-(2,5-dimethylpyrimidin-4-yl)-N-(6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxamide | 377 mg | CC1=NC=C(C(=N1)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1F)N=C(N2)C2=CC=CC=C2)C)C | C23H19FN8O
